US06936612B2
4-[6-(6-Bromo-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (0.04 g, 0.07 mmol) was suspended in CH2Cl2 (10 mL) and MeOH was added in order to produce a solution (up to 6 mL). 2 M HCl in ether (10 mL) was added with stirring. The reaction mixture was stirred at room temperature for a total of 3 days then the solvents were removed by evaporation at reduced pressure. The remaining solid was suspended in ether and filtered to give 6-bromo-8-cyclopentyl-5-methyl-2-(5-piperizin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one as a yellow solid, which was dried in vacuo at 50° C. MS (APCI); M++1: Calc'd, 486.15. Found, 486.1. Analyses for C23H26N7OBr.2.64H2O.2.0HCl: Calc'd: C, 43.68; H, 5.55; N, 16.21; Cl (ionic), 11.72. Found: C, 44.08; H, 5.32; N, 15.23; Cl (ionic), 11.65.

reactant | 4-[6-(6-Bromo-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.07 mmol, 0.04 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2C)Br)=O)C2CCCC2 | C27H34BrN7O3
reactant | MeOH | CO | CH4O
reactant | HCl | 2 M | Cl | ClH
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 10 mL | CCOCC | C4H10O
product | 6-bromo-8-cyclopentyl-5-methyl-2-(5-piperizin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | BrC1=C(C2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N(C1=O)C1CCCC1)C | C22H26BrN7O
